US04977149
A mixture of (±)-trans-2-chloro-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline hydrochloride (1.00 g, 3.32 mmol) and dimethylamine hydrochloride (15 g) was heated to 200° C. to form a homogeneous molten semi-solid. After 30 minutes, the molten semi-solid was poured into water, made basic with dilute NaOH solution, and extracted with methylene chloride. The extract was dried (Na2SO4) and concentrated to give the crude product as a brown solid. Purification by flash chromatography (10% methanol in methylene chloride, NH4OH) provided (±)-trans-2-dimethylamino-6-propyl-5,5a,6,7,8, 9,9a,10-octahydropyrido[2,3-g]quinoline (Rf =0.54, 568 mg, 63% yield) as an orange oil.

reactant | (±)-trans-2-chloro-6-propyl-5,5a,6,7,8,9,9a,10-octahydropyrido[2,3-g]quinoline hydrochloride | 3.32 mmol, 1.00 g | Cl.ClC=1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1
reactant | dimethylamine hydrochloride | 15 g | Cl.CNC
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | (±)-trans-2-dimethylamino-6-propyl-5,5a,6,7,8, 9,9a,10-octahydropyrido[2,3-g]quinoline | 568 mg, 63% yield | CN(C=1C=CC2=C(C[C@@H]3CCCN([C@H]3C2)CCC)N1)C | C17H27N3
